US07985769B2
To a solution of 3-Amino-5-phenyl-thiophene-2-carboxylic acid methyl ester (1 g, 4.29 mmol) in dichloromethane (50 ml) was added phenyl boronic acid (1.05 g, 8.6 mmol), pyridine (680 mg, 8.6 mmol) and copper(II) acetate (1.18 g, 6.5 mmol). The reaction mixture was stirred for 16 h at room temperature. Then, the reaction mixture was filtered through celite, concentrated and the residue was purified by flash chromatography (9:1 Hexane/EtOAc) to obtain 435 mg (33%) of 5-Phenyl-3-phenylamino-thiophene-2-carboxylic acid methyl ester. NMR 1H (CDCl3, 400 MHz): 7.38 ppm (dd, 2H, Haro); 7.35-7.26 ppm (m, 5H, Haro); 7.19 ppm (s, 1H, Haro); 7.15 ppm (dd, 2H, Haro); 7.02 ppm (ddt, 1H, Haro); 3.82 ppm (s, 3H).

reactant | 3-Amino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 4.29 mmol, 1 g | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | phenyl boronic acid | 8.6 mmol, 1.05 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 8.6 mmol, 680 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 6.5 mmol, 1.18 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-Phenyl-3-phenylamino-thiophene-2-carboxylic acid methyl ester | 435 mg, 33% | COC(=O)C=1SC(=CC1NC1=CC=CC=C1)C1=CC=CC=C1 | C18H15NO2S
